### ISSUE TITLE
Proof step bug?

### ISSUE THREAD

**Issue by shanjiaming** [augustepoiroux/LeanInteract#23]
```
# Mathlib setup...

response = server.run(Command(cmd="""import Mathlib
import Aesop

set_option maxHeartbeats 0

open BigOperators Real Nat Topology Rat


theorem mathd_numbertheory_277 (m n : ℕ) (h₀ : Nat.gcd m n = 6) (h₁ : Nat.lcm m n = 126) :
    60 ≤ m + n := by
  have h₄ : m * n = 756 := by
    have h₄₁ : m * n = Nat.gcd m n * Nat.lcm m n := by
      sorry
    sorry
  sorry
"""))
#print(response.sorries)

from lean_interact import ProofStep
#now I want to change the second admit
response = server.run(ProofStep(proof_state=1, tactic="""(
nlinarith
)"""))
print(response)
```

I expect it to complete that hole, however.

The result is:
`ProofStepResponse(proof_status="Error: kernel type check failed: (kernel) declaration has metavariables '[anonymous]'", goals=[], proof_state=3)`
Maybe it's a repl Proofstep bug?
